US04713387
In 13.7 ml of ethanol was dissolved 2.74 g of 3-[p-[1-hydroxy-3-(2-hydroxyethyl)oxy-2-methylpropyl]benzyl]pyridine, and the resulting solution was saturated with hydrogen chloride with ice-cooling, after which the solution was subjected to reaction at room temperature for 2 hours. The solvent was removed by distillation under reduced pressure, and to the residue thus obtained were added 10 ml of water and 20 ml of ethyl acetate, after which the pH of the resulting mixture was adjusted to 7.0 with sodium hydrogencarbonate. The organic layer was separated, washed with 10 ml of water, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 2.85 g (yield 98%) of colorless, oily 3-[p-[1-chloro-3-(2-hydroxyethyl)oxy-2-methylpropyl]benzyl]pyridine.

reactant | 3-[p-[1-hydroxy-3-(2-hydroxyethyl)oxy-2-methylpropyl]benzyl]pyridine | 2.74 g | OC(C(COCCO)C)C1=CC=C(CC=2C=NC=CC2)C=C1 | C18H23NO3
reactant | hydrogen chloride | Cl | ClH
reactant | water | 10 ml | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 13.7 ml | C(C)O | C2H6O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 3-[p-[1-chloro-3-(2-hydroxyethyl)oxy-2-methylpropyl]benzyl]pyridine | yield 98% | ClC(C(COCCO)C)C1=CC=C(CC=2C=NC=CC2)C=C1 | C18H22ClNO2
